US09399640B2
Step 5. 5-Bromo-4-(cyclobutylmethoxy)-1-methyl-3-(2-morpholin-4-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one
This compound was synthesized according to the procedure of Example 44, Step 2, using 5-bromo-4-(cyclobutylmethoxy)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one and 4-(2-bromoethyl)morpholine hydrochloride as the starting materials. LCMS calculated for C19H27BrN3O3 (M+H)+: m/z=424.1, 426.1. found: 424.3, 426.3.

reactant | 5-bromo-4-(cyclobutylmethoxy)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | BrC1=C(C2=C(N(C(N2)=O)C)C=C1)OCC1CCC1 | C13H15BrN2O2
reactant | 4-(2-bromoethyl)morpholine hydrochloride | Cl.BrCCN1CCOCC1
product | 5-Bromo-4-(cyclobutylmethoxy)-1-methyl-3-(2-morpholin-4-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one | BrC1=C(C2=C(N(C(N2CCN2CCOCC2)=O)C)C=C1)OCC1CCC1 | C19H26BrN3O3
